US09315521B2
6-methyl-2-{[(5-methyl-1,3-thiazol-2-yl)methyl]sulfanyl}pyrimidin-4-ol
To CCl4 (100 mL) in a 250 mL round bottom flask were added 2,5-dimethyl-1,3-thiazole (1.7 g, 15 mmol), 1-bromopyrrolidine-2,5-dione (2.94 g, 16.5 mmol), and benzoyl benzenecarboperoxoate (180 mg, 0.75 mmol). The reaction mixture was heated at 80° C. for 4 hours. The solvent was then removed under vacuum. The crude product was dissolved in ethanol (30 mL). 6-methyl-2-sulfanylpyrimidin-4-ol (700 mg, 5 mmol) and triethylamine (1.4 mL) were added, and the mixture was stirred at room temperature for 2 hours. After removal of the solvent, the crude product was purified by column chromatography (0-8% methanol in DCM) to provide the title compound as a white solid (480 mg, 40% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.25 (s, 3H), 2.50 (s, 3H), 4.56 (s, 2H), 6.03 (br, 1H), 7.55 (s, 1H); M+254.

reactant | 2,5-dimethyl-1,3-thiazole | 15 mmol, 1.7 g | CC=1SC(=CN1)C | C5H7NS
reactant | 1-bromopyrrolidine-2,5-dione | 16.5 mmol, 2.94 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl benzenecarboperoxoate | 0.75 mmol, 180 mg | C1(=CC=CC=C1)C(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 5 mmol, 700 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
solvent | triethylamine | 1.4 mL | C(C)N(CC)CC | C6H15N
solvent | CCl4 | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-methyl-2-{[(5-methyl-1,3-thiazol-2-yl)methyl]sulfanyl}pyrimidin-4-ol | 480 mg, 40% yield | CC1=CC(=NC(=N1)SCC=1SC(=CN1)C)O | C10H11N3OS2
